US07166598B2
Benzyl bromide (2.34 ml, 19.8 ml) was added to a solution of N-tert-butyloxycarbonyl-4-hydroxy-3-methoxy-D-phenylalanine (3.44 g) and N,N-diisopropylethylamine (3.85 ml) in N,N-dimethylformamide (20 ml). After being stirred at room temperature for 6 hours, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of hexane and ethyl acetate (4:1) to give (2R)-2-(tert-butyloxycarbonylamino)-3-(4-hydroxy-3-methoxyphenyl)propionic acid benzyl ester (2.98 g) as colorless powders.

reactant | Benzyl bromide | 2.34 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N-tert-butyloxycarbonyl-4-hydroxy-3-methoxy-D-phenylalanine | 3.44 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC(=C(C=C1)O)OC)C(=O)O | C15H21NO6
reactant | N,N-diisopropylethylamine | 3.85 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2R)-2-(tert-butyloxycarbonylamino)-3-(4-hydroxy-3-methoxyphenyl)propionic acid benzyl ester | 2.98 g | C(C1=CC=CC=C1)OC([C@@H](CC1=CC(=C(C=C1)O)OC)NC(=O)OC(C)(C)C)=O | C22H27NO6
